US08471005B2
[4-Chloro-3-(1-methyl-pyrrolidin-2-ylmethoxy)-phenyl]-[7-(3-methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-amine
Prepared by following a procedure analagous to Example 1220c by using 4-Chloro-3-(1-methyl-pyrrolidin-2-ylmethoxy)-phenylamine and Trifluoro-methanesulfonic acid 7-(3-methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl ester. 1H-NMR (DMSO) 69.8 (brs, 1H), 9.7 (s, 1H), 9 (s, 1H), 8.6 (s, 1H), 8.4 (d, J=7.9 Hz, 1H), 7.95 (d, J=7.9 Hz, 1H), 7.8 (t, 1H), 7.5 (d, J=8.9 Hz, 1H), 7.4 (m, 2H), 7.3 (d, J=4.7 Hz, 1H), 7 (d, J=4.7 Hz, 1H), 4.2 (m, 2H), 4.0 (m, 1H), 3.8 (m, 1H), 3.6 (m, 1H), 3.3 (s, 3H), 3.1 (m, 1H), 3.0 (s, 3H), 2.2 (m, 1H), 2.0 (m, 1H), 1.9 (m, 1H), 1.6 (m, 1H); LC/MS (ESI+): 512 (M+H).

reactant | 4-Chloro-3-(1-methyl-pyrrolidin-2-ylmethoxy)-phenylamine | ClC1=C(C=C(C=C1)N)OCC1N(CCC1)C | C12H17ClN2O
reactant | Trifluoro-methanesulfonic acid 7-(3-methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl ester | CS(=O)(=O)C=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)OS(=O)(=O)C(F)(F)F | C14H10F3N3O5S2
product | [4-Chloro-3-(1-methyl-pyrrolidin-2-ylmethoxy)-phenyl]-[7-(3-methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-amine | ClC1=C(C=C(C=C1)NC1=NN2C(C=N1)=CC=C2C2=CC(=CC=C2)S(=O)(=O)C)OCC2N(CCC2)C | C25H26ClN5O3S
